US04401598
1.0 mole of 3-chloropropyltris(methoxyethoxy)-silane and 1.1 moles of sodium azide in 500 ml of acetonitrile were heated in the presence of 5 mole percent of the catalyst described in Example 1 (a) for eight hours under reflux and stirring. After separation of the salt the subsequent distillation under reduced pressure gave the 3-azidopropyltris(methoxyethoxy)silane in a yield of 84 weight percent with the following characteristics:

reactant | 3-chloropropyltris(methoxyethoxy)-silane | 1.0 mole | ClCCC[Si](OCCOC)(OCCOC)OCCOC | C12H27ClO6Si
reactant | sodium azide | 1.1 moles | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 3-azidopropyltris(methoxyethoxy)silane | N(=[N+]=[N-])CCC[Si](OCCOC)(OCCOC)OCCOC | C12H27N3O6Si
